US09334260B2
8,8-Dimethyl-8H-indolo[3,2,1-de]acridine-3-boronic acid (D1)
93.9 g (259 mmol) of 3-bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine are dissolved in 1500 ml of dry THF. 135 ml (337 mmol) of a 2.5 M solution of n-butyllithium in cyclohexane are added dropwise at −70° C., and, after 1 h, 37 ml of trimethyl borate (336 mmol) are added dropwise. The mixture is allowed to come to room temperature over the course of 1 h, and the solvent is removed. The residue, which is uniform according to 1H-NMR, is employed in the subsequent reaction without further purification. The yield is 77 g (235 mmol), corresponding to 91% of theory.

reactant | 3-bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine | 259 mmol, 93.9 g | BrC1=CC2=C(C=C1)N1C3=C2C=CC=C3C(C=3C=CC=CC13)(C)C | C21H16BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethyl borate | 336 mmol, 37 ml | B(OC)(OC)OC | C3H9BO3
solvent | THF | 1500 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 8,8-Dimethyl-8H-indolo[3,2,1-de]acridine-3-boronic acid | CC1(C=2C=CC=CC2N2C3=C(C=CC=C13)C=1C=C(C=CC12)B(O)O)C | C21H18BNO2
